US05840917
3-Formyl-2-thiophenecarboxylic acid (4.68 g) was dissolved in N,N-dimethylformamide (30 ml), and benzyl bromide (3.9 ml) and potassium carbonate (4.15 g) were added. The mixture was stirred at room temperature for 15 hours, poured into water, and then extracted with diethyl ether. The extract was washed with 5% potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 3-formyl-2-thiophenecarboxylic acid benzyl ester (2.65 g). 3-Formyl-2-thiophenecarboxylic acid benzyl ester (2.65 g) was dissolved in ethanol (50 ml), and hydroxylamine hydrochloride (0.83 g) and pyridine (0.97 ml) were added. The mixture was stirred under reflux for 3 hours, and concentrated under reduced pressure. The residue was poured into water, and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-aldoxime-2-thiophenecarboxylic acid benzyl ester (2.61 g). This product was dissolved in acetic anhydride (20 ml), and the mixture was stirred at 160° C. for 10 hours. The mixture was cooled, poured into water (100 ml) and extracted with diethyl ether. The extract was washed with saturated aqueous sodium bicarbonate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-cyano-2-thiophenecarboxylic acid benzyl ester (2.01 g). This product was dissolved in tetrahydrofuran (40 ml), and 5% Pd--C (wet) (0.25 g) was added. The mixture was hydrogenated at room temperature under atmospheric pressure for 72 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give 3-cyano-2-thiophenecarboxylic acid (0.98 g) as crystals.

reactant | 3-Formyl-2-thiophenecarboxylic acid | 4.68 g | C(=O)C1=C(SC=C1)C(=O)O | C6H4O3S
reactant | benzyl bromide | 3.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-formyl-2-thiophenecarboxylic acid benzyl ester | 2.65 g | C(C1=CC=CC=C1)OC(=O)C=1SC=CC1C=O | C13H10O3S
